US05952355
3,4,5-Trimethoxybenzaldehyde (25.48 g) was dissolved in tetrahydrofuran (50 ml), and 4-pentenylmagnesium bromide (a 1M solution in tetrahydrofuran, 200 ml) was added thereto, followed by stirring at room temperature for 30 minutes. 1N Hydrochloric acid was added to the reaction solution and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated saline, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give 1-hydroxy-1-(3,4,5-trimethoxyphenyl)-5-hexene (Compound VIII-1, 34.58 g)

reactant | 3,4,5-Trimethoxybenzaldehyde | 25.48 g | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | 4-pentenylmagnesium bromide | C(CCC=C)[Mg]Br
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-hydroxy-1-(3,4,5-trimethoxyphenyl)-5-hexene | 34.58 g | OC(CCCC=C)C1=CC(=C(C(=C1)OC)OC)OC | C15H22O4
